US07557125B2
Preparation of (E)-3-(6-aminopyridin-3-yl)-N-methyl-N-(3-methylbenzo[b]thiophen-2-ylmethyl)acrylamide
To a stirred solution of 3-methyl-2-(methylaminomethyl)benzo[b]thiophene (0.30 g, 1.6 mmole) in 1:1 DMF/CH2Cl2 was added (E)-3-(6-aminopyridin-3-yl)acrylic acid (0.33 g, 2 mmole), HOBt.H2O (0.27 g, 2 mmole), and DCC (0.41 g, 2 mmole). The reaction was stirred for 16 hr. then was concentrated under vacuum. The residue was taken up in CHCl3, washed with H2O, dried (Na2SO4) and concentrated. Purification by flash chromatography on silica gel (4% methanol/CHCl3) gave the title compound (0.39 g, 72%) as a pale yellow solid: LCMS (ES) m/e 338.2 (M+H)+.

reactant | 3-methyl-2-(methylaminomethyl)benzo[b]thiophene | 1.6 mmole, 0.30 g | CC=1C2=C(SC1CNC)C=CC=C2 | C11H13NS
reactant | (E)-3-(6-aminopyridin-3-yl)acrylic acid | 2 mmole, 0.33 g | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 2 mmole, 0.27 g | O | H2O
reactant | DCC | 2 mmole, 0.41 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF CH2Cl2 | CN(C)C=O.C(Cl)Cl
product | (E)-3-(6-aminopyridin-3-yl)-N-methyl-N-(3-methylbenzo[b]thiophen-2-ylmethyl)acrylamide | 0.39 g, 72% | NC1=CC=C(C=N1)/C=C/C(=O)N(CC1=C(C2=C(S1)C=CC=C2)C)C | C19H19N3OS
